data/mechanism_extracts/OrgChemFront/10.1039_D3QO00731F_sup_1.json
{"doi": "10.1039_D3QO00731F_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical radical-radical coupling of N-aryl acrylamides with sodium difluoromethanesulfinate (CF2HSO2Na) to form difluoromethylated benzoxazine/related heterocycles (compound 3) via anodic substrate oxidation and cathodic CF2H radical generation.", "mechanism_family": ["radical_anodic", "radical_cathodic", "paired_electrolysis", "radical_cation"], "electrochemical_role": "Paired electrolysis: anodic (Pt) oxidation of the N-aryl acrylamide 1 to a radical cation (Int-1), which cyclizes to a carbon-centered radical (Int-2); CF2HSO2Na is oxidized/decomposed at the carbon cathode (per scheme depiction) to release CF2H radical, with concomitant H+ reduction to H2.", "key_intermediates": [{"name": "N-aryl acrylamide radical cation (Int-1)", "smiles": null, "role": "reactive"}, {"name": "cyclized benzoxazine-type C-centered radical (Int-2)", "smiles": null, "role": "reactive"}, {"name": "difluoromethyl radical (CF2H•)", "smiles": "[CH]F.F", "role": "reactive"}], "electron_flow": "At the anode, substrate 1 is oxidized by single-electron transfer to radical cation Int-1, which undergoes intramolecular cyclization (loss of H+) to give C-radical Int-2; in parallel, CF2HSO2Na delivers a CF2H• radical (with SO2 extrusion) while protons are reduced to H2 at the cathode; Int-2 and CF2H• then undergo radical-radical coupling to give product 3.", "rate_determining_step": null, "probe_reagents": [{"name": "1a + 2a + TFA mixture (CV)", "smiles": null, "purpose": "redox_probe", "observation": "Cyclic voltammetry shows a distinct oxidation wave around ~1.2-1.5 V vs Ag/AgCl for the 1a+2a+TFA combination that is absent or weaker for individual components, supporting anodic oxidation of the substrate under the reaction conditions."}, {"name": "Control electrolysis probing intermediates 7 and 8", "smiles": null, "purpose": "intermediate_trap", "observation": "Under the constant-current electrolysis (6 mA, RT, 6.5 h, Pt cathode/graphite anode), neither compound 7 nor compound 8 could be detected by HRMS, ruling out these species as on-pathway intermediates."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Scheme S2 depicts the favored radical-radical coupling pathway. Note that in the drawn scheme CF2HSO2Na appears at the cathode side and substrate 1 at the anode side; mechanistically the more typical assignment is anodic oxidation of the sulfinate to CF2H• and anodic oxidation of 1 to Int-1, with cathodic H+ reduction to H2 — the figure's electrode labeling may be schematic rather than literal. Alternative ionic (Int-2 oxidation to cation then trapped by CF2H-anion) pathway is not explicitly supported and is disfavored relative to the radical-radical coupling depicted."}
